US08426441B2
A mixture of crude [6-(6-chloro-imidazo[1,2-b]pyridazin-8-ylamino)-pyridin-3-yl]-morpholin-4-yl-methanone (0.048 g, “0.133 mmol”), 4-tert-butyl-N-[2-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-benzamide (0.087 g, 0.23 mmol), potassium carbonate (0.056 g, 0.41 mmol), Pd(PPh3)4 (0.016 g, 0.014 mmol), 1 mL of toluene, 0.25 mL of ethanol and 0.25 mL of water under N2 was stirred at 170° C. in a microwave for 3 h. More Pd(PPh3)4 was added (0.025 g, 0.021 mmol) and the mixture was stirred for an additional 1 h at 170° C. in a microwave. The mixture was partitioned between 5 mL of water and 5 mL of ethyl acetate, and the aqueous layer was extracted with 5 mL of ethyl acetate. The combined organic layers were dried over MgSO4, filtered and concentrated to 0.126 g of a yellow oil. Column chromatography (1st column: 0->10% MeOH/CH2Cl2; 2nd column: 0->5% MeOH/EtOAc) afforded 0.008 g (10%) of 4-tert-butyl-N-(2-methyl-3-{8-[5-(morpholine-4-carbonyl)-pyridin-2-ylamino]-imidazo[1,2-b]pyridazin-6-yl}-phenyl)-benzamide as an off-white solid.

reactant | [6-(6-chloro-imidazo[1,2-b]pyridazin-8-ylamino)-pyridin-3-yl]-morpholin-4-yl-methanone | 0.133 mmol, 0.048 g | ClC=1C=C(C=2N(N1)C=CN2)NC2=CC=C(C=N2)C(=O)N2CCOCC2 | C16H15ClN6O2
reactant | 4-tert-butyl-N-[2-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-benzamide | 0.23 mmol, 0.087 g | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=CC=C2)B2OC(C(O2)(C)C)(C)C)C)C=C1 | C24H32BNO3
reactant | potassium carbonate | 0.41 mmol, 0.056 g | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.014 mmol, 0.016 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 0.25 mL | O | H2O
solvent | ethanol | 0.25 mL | C(C)O | C2H6O
product | 4-tert-butyl-N-(2-methyl-3-{8-[5-(morpholine-4-carbonyl)-pyridin-2-ylamino]-imidazo[1,2-b]pyridazin-6-yl}-phenyl)-benzamide | 0.008 g, 10% | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=CC=C2)C=2C=C(C=3N(N2)C=CN3)NC3=NC=C(C=C3)C(=O)N3CCOCC3)C)C=C1 | C34H35N7O3
